US04935431
6-Butyryl-7-chlorothieno[3,2-b]pyridine (2.5 g, 0.0104 mol) and o-toluidine (2.23 g, 0,0208 mol) in 1,4-dioxan were heated under reflux for 3 hours. The solvent was evaporated under reduced pressure and the residue obtained was dissolved in dichloromethane (100 ml) and washed with 2NHCl (4×100 ml), then sodium carbonate solution (100 ml). The dichloromethane extracts were dried, filtered and evaporated under reduced pressure to give an oil, which crystallized on the addition of petroleum ether (b.p. 40°-60°). The solid was collected by filtration and dried to give 6-butyryl-7-(2-methylphenylamino)thieno[3,2-b]pyridine, (2.25 g), m.p. 114°-116°. 1 g was recrystallized from hexane to give an analytically pure sample, (0.7 g), m.p. 118°-120°.

reactant | 6-Butyryl-7-chlorothieno[3,2-b]pyridine | 0.0104 mol, 2.5 g | C(CCC)(=O)C=1C(=C2C(=NC1)C=CS2)Cl | C11H10ClNOS
reactant | o-toluidine | 0,0208 mol, 2.23 g | NC=1C(=CC=CC1)C | C7H9N
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-butyryl-7-(2-methylphenylamino)thieno[3,2-b]pyridine | 2.25 g | C(CCC)(=O)C=1C(=C2C(=NC1)C=CS2)NC2=C(C=CC=C2)C | C18H18N2OS
